Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Ms. ___ is a ___ y/o female with a history of 
hypertension, asthma and recent diagnosis of CAD based on stress 
echo done on ___, thought to be single vessel disease who 
presents with intermittent chest pain since her recent discharge 
on ___. During her recent hospitalization she was ruled out 
for an MI with three negative sets of cardiac enzymes, she had a 
stress echo which showed inducible ischemia at the achieved 
workload, thought to be single vessel disease per the echo 
report. At that time the plan was for medical management, given 
her severe underlying pulmonary disease she was not started on a 
beta blocker, but was started on diltiazem 120mg daily. Also 
during that admission she was found to have intermittent 
episodes of MAT. Today she was on the phone with her ___ year 
old aunt, who is very hard or hearing, she says that she became 
frustrated when her aunt was ___ to hear her on the phone and 
she started to have some chest pain. The pain began in the 
___ her chest, as a dull pain then moved up to her left 
shoulder and under her left breast, at its worst was a ___. 
She took three SL nitro's at home, with some minor improvement 
in her CP but when it did not resolve she called Dr. ___ 
referred her to the ER. She denied any associated SOB, 
nausea/vomiting. She denies any orthopnea, PND, ___ edema or 
palpitations.  
.  
In the ED, initial vitals were 98.7, 73, 183/92, 20, 98% on RA. 
Her EKG had a LBBB that was unchanged from prior, CXR with no 
acute process. Patient given aspirin 243mg since she had already 
taken 81mg of aspirin at home. She was not given anything for 
her episodes of chest pain as they resolved without further 
intervention. Vitals on transfer were 71, 121/56, 22, 100% on 
RA.  
.  
On arrival to the floor, patient's initial VS were: 98.9, 
140/86, 68, 18, 97% on RA. She says that she currently may have 
a little bit of cental CP, but otherwise feels well and has no 
complaints.  
 
Past Medical History:
HTN  
Asthma  
Diverticulitis several years ago  
R hip replacement in ___  
Exertional Atypical Chest Pain
 
Social History:
___
Family History:
Mother: ___, HTN  
Father: ___ CA  
Brother: CA?  
Brother: ___  

 
Physical ___:
On Admission:
VS: T=98.9 BP=140/86 HR=68 RR=18 O2 sat=97% on RA  
GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. No xanthalesma.  
NECK: Supple  
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 
or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. decreased breath sounds 
throughout, although CTA, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No tenderness.  
EXTREMITIES: No c/c/e.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: DP 2+ ___ 2+  
Left: DP 2+ ___ 2+  

 
Pertinent Results:
___ 03:55PM   ___ PTT-26.0 ___
___ 03:55PM   PLT COUNT-215
___ 03:55PM   NEUTS-53.2 ___ MONOS-5.7 EOS-0.9 
BASOS-0.5
___ 03:55PM   WBC-5.6 RBC-4.66 HGB-13.2 HCT-39.4 MCV-85 
MCH-28.3 MCHC-33.4 RDW-15.0
___ 03:55PM   cTropnT-<0.01
___ 03:55PM   estGFR-Using this
___ 03:55PM   GLUCOSE-94 UREA N-21* CREAT-0.9 SODIUM-138 
POTASSIUM-4.0 CHLORIDE-100 TOTAL CO2-27 ANION GAP-15
___ 04:04PM   GLUCOSE-91 K+-4.1
___ 12:00AM   CK-MB-3 cTropnT-<0.01
___ 12:00AM   CK(CPK)-189

CXR: Emphysema without superimposed pneumonia or CHF.
 
Brief Hospital Course:
ASSESSMENT AND PLAN: Ms. ___ is a ___ year old female with 
a recent diagnosis of CAD, HTN and asthma who presents with 
intermittent episodes of chest pain since her recent discharge.  

......................................
Active Issues:
.  
# CORONARIES: patient with intermittent episodes of left chest 
burning, that are not typical of angina since they resolve 
without intervention, are not relieved by nitro and have no 
association with exercise. However, given the findings on her 
recent stress echo of inducible ischemia it is concerning that 
her current symptoms could be related to her underlying CAD. Her 
troponins were negative during this hospital stay.  On this 
admission, she was started on Imdur 30 in addition to the 
medications started on last discharge as it was decided that she 
may need better medical management prior to resorting to PCI 
(which may be a possibility in the future). After administration 
of IMDUR, we walked the patient down the hall, as well as up 
several flights of stairs. She denied feeling short of breath, 
nor did she endorse any other cardiac symtpoms, such as chest 
pain. In fact, she stated that she felt well walking. 
.  
# RHYTHM: LBBB on EKG from yesterday, regular. patient with a 
new diagnosis of MAT on last admission. We continued her on 
Diltiazem. She had several episodes of MAT on tele, but was 
asymptomatic. Given frequent PAT, ___ of Hearts monitor was 
arranged for her on discharge to exclude the possibility that 
symptoms are due to a tachyarrhythmia. 
.............................................
Inactive Issues:
# Hypertension: continued home HCTZ and diltiazem..  
# Asthma:continued home medications.    
# GERD: continued home omeprazole  
.    
CODE: full code  
.....................................  
Transitional Issues:
1) Patient was started on Imdur 30mg daily in additon to her 
other medications. She is being medically managed for her 
coronary artery disease but may be a candidate for PCI in the 
future if the symtpoms of chest pain return.
2) Follow-up event monitor for evaluation of arrhythmias
 
Medications on Admission:
-acetaminophen 325 mg Q4H as needed for pain.  
-albuterol sulfate 90 mcg: Two (2) Puff Inhalation Q6H (every 6 
hours) as needed for SOB or wheeze.  
-fluticasone-salmeterol 500-50 mcg: Inhalation BID  
-fluticasone 50 mcg: ___ Nasal once a day  
-hydrochlorothiazide 50 mg once a day.  
-omeprazole 20 mg DAILY  
-simvastatin 20 mg once a day.  
-tiotropium bromide 18 mcg DAILY  
-aspirin 81 mg once a day.  
-multivitamin 1 Tablet DAILY  
-diltiazem HCl 120 mg Tablet Sustained Release 24 hr daily  
-singulair 10mg QHS  
 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: One (1) Tablet PO every four 
(4) hours as needed for pain.  
2. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Two (2) Puff Inhalation Q6H (every 6 hours) as needed for sob, 
wheezing .  
3. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
4. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal DAILY (Daily).  
5. hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
once a day.  
6. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. simvastatin 20 mg Tablet Sig: One (1) Tablet PO once a day.  
8. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
9. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
10. multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. montelukast 10 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
12. isosorbide mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO once a day.
Disp:*30 Tablet Sustained Release 24 hr(s)* Refills:*2*
13. diltiazem HCl 180 mg Capsule, Sust. Release 24 hr Sig: One 
(1) Capsule, Sust. Release 24 hr PO once a day.
Disp:*30 Capsule, Sust. Release 24 hr(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. atypical chest pain

Secondary: 
1. Hypertension
2. Asthma
3. Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital for atypical chest pain. You 
were monitored on telemetry. Your EKG was unchanged. Your 
cardiac enzymes were normal, without evidence for heart damage 
or heart attack. We have started you on a long acting nitrate 
medication to control your chest pain symptoms. We also 
increased your diltiazem for better blood pressure and heart 
rate control.
.
Finally, we have set you up with a 48 hour holter monitor to get 
a better idea of your heart rhythm over time. Please discuss 
these results with ___. ___ at your upcoming 
cardiology appointment.
.
MEDICATION CHANGES:
- START imdur 30 mg daily
- INCREASE diltiazem to 180 mg daily
.
Please continue your other medications as prescribed.
.
Please seek medical attention for worsening chest pain, 
shortness of breath, or any other symptoms.
 
Followup Instructions:
___